US06479490B2
To a stirred solution of methyl 3-hydroxyphenylacetate (1.66 g, 10 mmol), 2-chloroethanol (1.34 mL, 2 eq.) and triphenylphosphine (5.24 g, 2 eq.) in THF (100 mL) at 0° C. was added dropwise diisopropylazodicarboxylate (3.96 mL, 2 eq.) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was then quenched with NaHCO3 and the product was extracted with EtOAc. The EtOAc layers were washed with brinebrine, dried over sodium sulfate, and concentrated. Purification on a silica gel column with 10% EtOAc in hexane gave methyl 3-(2-chloroethyloxy)phenylacetate (1.6 g, 70% yield) which was converted to 3-(1-methylindol-3-yl)-4-[3-(2-aminoethyloxy)phenyl]-1H-pyrrole-2,5-dione by following the procedure described in Example 5, Steps 2-6 above.

reactant | methyl 3-hydroxyphenylacetate | 10 mmol, 1.66 g | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | 2-chloroethanol | 1.34 mL, 2 eq. | ClCCO | C2H5ClO
reactant | triphenylphosphine | 5.24 g, 2 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 3.96 mL, 2 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | methyl 3-(2-chloroethyloxy)phenylacetate | 1.6 g, 70% yield | ClCCOC=1C=C(C=CC1)CC(=O)OC | C11H13ClO3
